US06107458
To a suspension of 1-(4-n-Octyloxyphenyl)piperazine (1 g)and potassium carbonate (0.476 g) in N,N-dimethylformamide (1 ml) was added p-fluorobenzonitrile (0.347 g), and stirred for 5 hours at 160° C. The reaction mixture was added to a mixture of water and ethyl acetate. The organic layer was taken, and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give 4-[4-(4-n-Octyloxyphenyl)piperazine-1-yl]benzonitrile (0.93 g).

reactant | 1-(4-n-Octyloxyphenyl)piperazine | 1 g | C(CCCCCCC)OC1=CC=C(C=C1)N1CCNCC1 | C18H30N2O
reactant | potassium carbonate | 0.476 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-fluorobenzonitrile | 0.347 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[4-(4-n-Octyloxyphenyl)piperazine-1-yl]benzonitrile | 0.93 g | C(CCCCCCC)OC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C#N)C=C1 | C25H33N3O
